US07414076B2
Preparation of 3-(2-adamantyl)amino-1-propanesulfonic acid (Compound BZ)
The 2-aminoadamantane hydrochloride (2×5 g) was treated with NaOH in water. The aqueous mixture was extracted with dichloromethane. The organic layer was dried over magnesium sulfate. The solvent was removed under reduced pressure. The resulting white solid was dried 30 minutes at room temperature under vacuum. A solution of 1,3-propane sultone (7.4 g, 60 mmol) in THF was added to a solution of the free amine (7.98 g, 52 mmol) in THF (70 mL, total). The mixture was heated under reflux for 4 h, cooled into an ice bath. The solid was collected by filtration, air-dried for 15 min., and further dried in vacuo (11.2 g). Recrystallization was done with methanol/water (60 mL/35 mL). After cooled in a fridge, the solid was collected by filtration, rinsed with methanol, dried in the vacuum oven at 60° C. overnight. A white crystalline sandy solid (small plates, 10.45 g, 74% yield) was obtained. The 1H and 13C NMR were consistent with the structure of Compound BZ.

reactant | 2-aminoadamantane hydrochloride | 5 g | Cl.NC1C2CC3CC(CC1C3)C2
reactant | NaOH | [OH-].[Na+]
reactant | 1,3-propane sultone | 60 mmol, 7.4 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 3-(2-adamantyl)amino-1-propanesulfonic acid | 74% yield | C12C(C3CC(CC(C1)C3)C2)NCCCS(=O)(=O)O | C13H23NO3S
